US04031069
Nαt-Butoxycarbonyl-L-tryptophyl-O-benzyl-D-seryl-O-benzyl-L-tyrosyl-D-alanine resin is prepared from 8 g. of Nα-t-butoxycarbonyl-O-benzyl-L-tyrosyl-D-alanine resin by successive coupling, according to the general process for solid phase synthesis given in Example 1, with (13 g., 9.8 mmol, of Nα-t-butoxycarbonyl-O-benzyl-D-serine and 2 g., 9.7 mmol, of dicyclohexylcarbodiimide and (2) 3 g., 9.8 mmol, of Nα-t-butoxycarbonyl-L-tryptophan and 2 g. of dicyclohexylcarbodiimide. The resin is washed with ethanol and dried. It is then stirred for twenty-four hours at 25° C. with 200 ml. of methanol and 20 ml. of triethylamine. The mixture is filtered and the methanol solution evaporated. The residue is solidified from ether-petroleum ether; 2 g.; m.p. 155°-156° C.

reactant | Nα-t-butoxycarbonyl-O-benzyl-L-tyrosyl-D-alanine | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)N[C@H](C)C(=O)O | C24H30N2O6
reactant | Nα-t-butoxycarbonyl-O-benzyl-D-serine | C(C)(C)(C)OC(=O)N[C@H](COCC1=CC=CC=C1)C(=O)O | C15H21NO5
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | Nα-t-butoxycarbonyl-L-tryptophan | C(C)(C)(C)OC(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C16H20N2O4
product | Nαt-Butoxycarbonyl-L-tryptophyl-O-benzyl-D-seryl-O-benzyl-L-tyrosyl-D-alanine | C(C)(C)(C)OC(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@H](COCC1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)N[C@H](C)C(=O)O | C45H51N5O9
